* sg13g2-bandgap -- bandgap_core PEX (post-layout) open-loop PVT testbench
* (issue #14). Generated from
* sim/core-open-loop-bias-pex/testbench/tb_core_open_loop_bias_pex.spice.tmpl
* by sim/core-open-loop-bias-pex/run_pvt_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep. Full rationale is in sim/core-open-loop-bias-pex/README.md;
* this header is a short pointer, not a restatement.
*
* Generated for: corner=typ temp=-40C vdd=3.30V
* DUT git sha (design/netlist/bandgap_core.spice, for the spliced-in
* bipolar devices -- resistors are extracted as of issue #59, see below):
*   d83f7c4
* Layout git sha (layout/bandgap_core/bandgap_core.gds, extraction input):
*   600b683
* PDK: ihp-sg13g2 /home/ubuntu/share/pdk (see sim/pdk.json for the pinned release)
* OSDI models: /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh -- see
*   sim/README.md "OSDI device models" for provenance)
*
* THIS IS A HYBRID PEX NETLIST, NOT A PURE LAYOUT EXTRACTION -- read
* sim/core-open-loop-bias-pex/README.md "What this does and does not
* model" before trusting a result here. Short version:
*   - XM1/XM2A/XM2B/XM3A/XM3B/XM3C (the sg13_hv_pmos mirror legs) are
*     re-encoded from `klt extract --deck sg13g2 --parasitics
*     layout/bandgap_core/bandgap_core.gds` (layout/bandgap_core/
*     bandgap_core.pex.spice, layout/bandgap_core/pex_extract_report.json):
*     real drawn W/L and junction AS/AD/PS/PD from the routed layout,
*     re-expressed as X-subckt calls to the real sg13_hv_pmos compact model
*     (the extraction's own native `M...pfet` cards reference a generic
*     placeholder model name, not the real PDK subckt -- see README.md).
*     As of issue #149 (T1 tracker #4 item 4 cause (d)), M2/M3 are each
*     decomposed into per-leg-distinct counts (1/2/3) of dominant-plus-trim
*     fingers (M2: w=9u+w=1u; M3: w=8u+w=1u+w=1u) to break the M1/M2/M3 LVS
*     graph automorphism -- `pex_extract_report.json`'s `device_counts` now
*     reads `{"pfet": 6, "rppd": 2}` (was `{"pfet": 3, "rppd": 2}`); each
*     finger keeps its own genuinely distinct extracted drawn geometry and
*     wire-parasitic hub node (see FIXTURE 2 and "Wire parasitics" below --
*     re-extracted and re-verified current against `bandgap_core.gds` as
*     part of issue #151, confirming #149's own PR already committed the
*     post-decomposition `bandgap_core.pex.spice`/`pex_extract_report.json`
*     pair used here).
*   - XQ1/XQ2/XQ3 (npn13G2) are NOT extracted from the layout at all --
*     `klt`'s curated sg13g2 deck still does not recognise bipolar devices
*     (klayout-tools, filed generically; see layout/README.md's LVS section
*     for the fuller writeup). They are spliced in verbatim from
*     design/netlist/bandgap_core.spice, wired to the SAME real layout net
*     names (sns1/sns2/cb2/cb3/vref/vss) the extraction itself reports as
*     real, physically-routed pins -- not invented nodes.
*   - XR1/XR2 (rppd) are now instantiated from the extracted R$5/R$4
*     devices (issue #59) instead of being spliced verbatim from
*     design/netlist/bandgap_core.spice -- PR #45's resistor marker layers
*     made the sg13g2 deck's `rppd` recognizer actually match both poly
*     resistors in this layout (pex_extract_report.json's device_counts
*     reads `{"pfet": 3, "rppd": 2}`). IMPORTANT caveat, confirmed by direct
*     ngspice testing, not assumed from bandgap_core.pex.spice's own text:
*     that file's native `R$4 sns2__t0 cb2__t0 vsubs 10751 rppd` card is
*     NOT literal simulatable ngspice syntax (a 2-terminal `R` element
*     cannot take a 3rd node before its value -- ngspice errors "unknown
*     parameter (vsubs)") -- `rppd`/`rhigh` are PDK subckts (`1 2 bn`
*     pins), the same situation the pfet/nfet M-cards above already needed
*     X-subckt re-encoding for. XR1/XR2 below are therefore X-subckt calls
*     to the real `rppd` subckt using pex_extract_report.json's own drawn
*     `w_um`/`l_um` (which, for both resistors here, are numerically
*     identical to the schematic's own nominal `w`/`l` -- these are
*     fixed-geometry poly resistors, so this pass buys no *geometry*
*     correction, only the bulk-node correction below and the newly-wired
*     hub-terminal parasitics). Bulk lands on `vsubs` (the extraction's
*     real reported bulk net for these devices), not the schematic's
*     `sub!` -- the now-unused `Vsub sub! vss` fixture is removed below.
*     Separately: `pex_extract_report.json`'s own `r_ohm` field (10751 /
*     66430, current post-#134-retune extraction -- issue #141) is klt's
*     own first-order `rsh * l_um / w_um` sheet-resistance estimate
*     (confirmed exactly: `260 * 82.7 / 2 = 10751`,
*     `260 * 511 / 2 = 66430`), not the full `r3_cmc` compact-model
*     resistance -- simulating the X-subckt form above at the same drawn
*     geometry computes ~10761 ohm / ~66257 ohm (res_typ, 27C, measured
*     from this experiment's own record 20260829-103823-1d98d88), within
*     ~0.3% of `r_ohm`, i.e. small and in the expected direction (the
*     compact model adds contact/end-effect terms the sheet-resistance
*     formula does not). Disclosed, not silently reconciled.
*   - The extracted mirror legs' body terminals are genuinely floating in
*     the layout (no drawn/derivable well tie -- klayout-tools, filed
*     generically; see layout/README.md's LVS cause 2). FIXTURE 3 below
*     reconnects each one to vdd, mirroring the schematic's own real
*     body-tied-to-vdd intent, so the netlist has a well-defined DC
*     operating point at all -- this is a testbench fixture bridging a
*     known, disclosed deck gap, not a claim about the real layout's body
*     connectivity.
*   - klayout-tools#1280/#1282 (issue #37) populated the sg13g2 deck's
*     PARASITICS.metals/metal_overlaps coefficient tables (Metal1/Metal2,
*     later the full Metal1-TopMetal2 stack). Re-extracting against the
*     current deck now yields non-zero r_count/c_count -- this run wires
*     in those wire R/C cards verbatim (see "Wire parasitics" below),
*     the first PEX record here to carry them. Gate net \$9 and the
*     anonymous body nets get no wire model either way (poly=None in
*     this deck -- see the module docstring in klayout_tools.decks.sg13g2 --
*     and each body net has only one device terminal). See README.md.

.lib "/home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_typ
.lib "/home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_tt
.lib "/home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib" res_typ

.options temp=-40 tnom=27

Vvdd vdd 0 dc 3.30
Vvss vss 0 dc 0
* bandgap_core.spice's schematic-splice convention wired the rppd bulk
* terminals to the global substrate net `sub!`, fixtured to vss via a 0 V
* source (sim/core-open-loop-bias's own fixture). As of issue #59, XR1/XR2
* below are the extracted R$5/R$4 devices instead, whose real bulk net is
* `vsubs` -- already stabilized by `Rvsubs_dctie` in the "Wire parasitics"
* block below -- so the `sub!`/`Vsub` fixture is no longer referenced by
* anything in this file and is removed rather than left as dead code.

* FIXTURE 1 -- open-loop mirror bias, same convention as
* sim/core-open-loop-bias (no error amplifier exists yet -- issue #9's
* scope cut): a diode-connected replica of the mirror device, carrying a
* 5 uA reference, sets the shared gate net. `pex_fb` substitutes for the
* extraction's own anonymous label ($9 in layout/bandgap_core/
* bandgap_core.pex.spice) -- klt's own anonymous net numbering is
* explicitly "not a stable contract" (klt extract --help), so this
* testbench names it for readability rather than embedding the raw `$9`.
XM0 pex_fb pex_fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
Ibias pex_fb vss dc 5u

* FIXTURE 2 -- per-leg ammeter. The extracted M-card's own D/S convention
* is `nd=vdd ng=$9 ns=<leg>` (opposite the schematic's `d=<leg> g=fb
* s=vdd`) -- inconsequential here since every leg's AS=AD and PS=PD
* (confirmed in pex_extract_report.json), so PSP103's terminal formulation
* is symmetric under this exchange; disclosed, not silently assumed. Each
* extracted device's own source terminal reaches its own real
* wire-parasitic hub node through a 0 V ammeter, mirroring
* sim/core-open-loop-bias's own Vm1/Vm2/Vm3 fixture.
* FIXTURE 3 -- body tie. See the file header above.
*
* As of issue #149/#151, M2 and M3 are each decomposed into 2/3 parallel
* fingers (M$2/M$3 and M$4/M$5/M$6 in bandgap_core.pex.spice), and each
* finger's extraction genuinely lands on its OWN distinct wire hub node
* (sns2__t1 vs sns2__t2; vref__t1 vs vref__t2 vs vref__t3) with its own
* series R back to the real sns2/vref net -- unlike sim/core-open-loop-bias's
* schematic-level testbench, these are not interchangeable, so this
* testbench keeps a SEPARATE ammeter per finger (Vm2a/Vm2b, Vm3a/Vm3b/Vm3c)
* rather than merging them onto one shared probe node, which would lose the
* real per-finger wire-resistance distinction the extraction reports.
* run_pvt_sweep.sh sums each leg's per-finger ammeter readings
* (i(vm2a)+i(vm2b), i(vm3a)+i(vm3b)+i(vm3c)) into that leg's total current,
* matching the pre-#149 single-ammeter-per-leg convention at the CSV/record
* level even though the netlist itself now measures each finger
* individually. Each leg's drain/source pins below are wired to the exact
* per-terminal wire-parasitic hub node names
* layout/bandgap_core/bandgap_core.pex.spice's own M$1-M$6 cards use --
* the "Wire parasitics" block below ties each hub back to its real net
* (vdd/sns1/sns2/vref) through that file's own series R (+ ground/coupling
* C, no DC effect but included for completeness). This makes the summed
* ammeter readings the true per-leg device current, upstream of any wire IR
* drop, and v(sns1)/v(sns2)/v(vref) the real post-parasitic net voltage the
* downstream bipolar/resistor devices actually see.
XM1 vdd__t0 pex_fb m1s vdd sg13_hv_pmos w=10u l=1u ng=1 m=1 as=4p ad=4p ps=20.8u pd=20.8u
Vm1 m1s sns1__t0 dc 0
XM2A vdd__t1 pex_fb m2as vdd sg13_hv_pmos w=9u l=1u ng=1 m=1 as=3.6p ad=3.6p ps=18.8u pd=18.8u
Vm2a m2as sns2__t1 dc 0
XM2B vdd__t2 pex_fb m2bs vdd sg13_hv_pmos w=1u l=1u ng=1 m=1 as=0.4p ad=0.4p ps=2.8u pd=2.8u
Vm2b m2bs sns2__t2 dc 0
XM3A vdd__t3 pex_fb m3as vdd sg13_hv_pmos w=8u l=1u ng=1 m=1 as=3.2p ad=3.2p ps=16.8u pd=16.8u
Vm3a m3as vref__t1 dc 0
XM3B vdd__t5 pex_fb m3bs vdd sg13_hv_pmos w=1u l=1u ng=1 m=1 as=0.4p ad=0.4p ps=2.8u pd=2.8u
Vm3b m3bs vref__t3 dc 0
XM3C vdd__t4 pex_fb m3cs vdd sg13_hv_pmos w=1u l=1u ng=1 m=1 as=0.4p ad=0.4p ps=2.8u pd=2.8u
Vm3c m3cs vref__t2 dc 0

* Wire parasitics (issue #37, refreshed issue #56, extended issue #59,
* refreshed again issue #151 for #149's M2/M3 decomposition -- the extra
* fingers add extra vdd_tN/sns2_tN/vref_tN hub legs) -- verbatim R/C cards
* from layout/bandgap_core/bandgap_core.pex.spice's --parasitics output
* (the file's M$1-M$6 cards are already re-encoded above as
* XM1/XM2A/XM2B/XM3A/XM3B/XM3C; R$7/R$8 are re-encoded below as XR2/XR1 --
* see file header). Regenerate this block together with the geometry above
* if the layout or deck ever changes.
Rcb2_t0 cb2__t0 cb2 27.5568
Ccb2 cb2 vsubs 8.704932e-15
Rcb3_t0 cb3__t0 cb3 117.7002
Ccb3 cb3 vsubs 3.5673741e-14
Rsns1_t0 sns1__t0 sns1 15.1283
Csns1 sns1 vsubs 4.244144e-15
Rsns2_t0 sns2__t0 sns2 10.1243713303
Rsns2_t1 sns2__t1 sns2 4.91814556153
Rsns2_t2 sns2__t2 sns2 8.17758310814
Csns2 sns2 vsubs 7.036193e-15
Rvdd_t0 vdd__t0 vdd 12.9535840909
Rvdd_t1 vdd__t1 vdd 5.4803625
Rvdd_t2 vdd__t2 vdd 3.48750340909
Rvdd_t3 vdd__t3 vdd 5.31429090909
Rvdd_t4 vdd__t4 vdd 9.30000909091
Rvdd_t5 vdd__t5 vdd 7.30715
Cvdd vdd vsubs 1.2764375e-14
Rvref_t0 vref__t0 vref 24.8473212291
Rvref_t1 vref__t1 vref 11.065018194
Rvref_t2 vref__t2 vref 5.58302016718
Rvref_t3 vref__t3 vref 8.2824404097
Cvref vref vsubs 1.5014553e-14
Rvss vss vss__par 7.5152
Cvss vss__par vsubs 1.2491113e-14
Ccc_cb2_vdd cb2 vdd 8.235e-18
Ccc_cb2_vss cb2 vss__par 3.0251e-17
Ccc_cb3_vdd cb3 vdd 8.235e-18
Ccc_cb3_vref cb3 vref 8.235e-18
Ccc_cb3_vss cb3 vss__par 2.0167e-17
Ccc_sns1_vss sns1 vss__par 3.0251e-17
Ccc_sns2_vdd sns2 vdd 8.235e-18
Ccc_vdd_vref vdd vref 8.235e-18
Rvsubs_dctie vsubs 0 1e+12

* Bipolar devices -- schematic-sourced, see file header above (klt's sg13g2
* deck still does not recognise npn13G2 as an extracted device class).
XQ1 sns1 sns1 vss vss npn13G2 Nx=1
XQ2 cb2 cb2 vss vss npn13G2 Nx=8
XQ3 cb3 cb3 vss vss npn13G2 Nx=1

* Resistor devices -- extracted from the routed layout as of issue #59
* (R$4/R$5 in layout/bandgap_core/bandgap_core.pex.spice), re-encoded as
* X-subckt calls to the real rppd PDK subckt (see file header for why the
* pex.spice file's own native R$4/R$5 cards are not directly simulatable,
* and for the r_ohm-vs-simulated-resistance caveat). XR1/XR2 keep the
* schematic's own instance names for continuity; the hub-terminal node
* names below (sns2__t0/cb2__t0/vref__t0/cb3__t0) are the extraction's own.
XR2 sns2__t0 cb2__t0 vsubs rppd w=2u l=82.7u m=1 b=0
XR1 vref__t0 cb3__t0 vsubs rppd w=2u l=511u m=1 b=0

.op
.control
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi
run
print v(vref) v(pex_fb) v(sns1) v(sns2) v(cb2) v(cb3) i(vm1) i(vm2a) i(vm2b) i(vm3a) i(vm3b) i(vm3c)
.endc
.end
